US07265148B2
Synthesis of N-{[1-methyl-3-phenyl-5-(1H-pyrrol-1-yl)-1H-indol-2-yl]carbonyl}-L-phenylalanine
A mixture of 1-methyl-3-phenyl-5-(1H-pyrrol-1-yl)-1H-indole-2-carboxylic acid (0.28 g, 0.9 mmol), 1-[3-(dimethylamino)propyl-3-ethylcarbodiimide hydrochloride (0.29 g, 1.2 mmol), and L-phenylalanine ethyl ester hydrochloride (0.34 g, 1.5 mmol) was stirred in CH2Cl2 (15 mL). N-methylmorpholine (0.50 g, 5 mmol) was added and the mixture was stirred at room temperature for 3 h. The mixture was then washed with 0.05 N HCl and water. The resulting solution was dried with MgSO4 and concentrated. The residue was dissolved in 20 mL of 2:1:1 THF/MeOH/water and lithium hydroxide monohydrate (0.30 g, 7.1 mmol) was added. The reaction was stirred at room temperature for 1 day. Most of the organic solvents was removed and the reaction mixture was made acidic (pH 6) with glacial acetic acid, and the solid was collected and purified by semi-preparative HPLC (Column: Phenomenex C18 Luna 21.6 mm×60 mm, 5 μM; Solvent A: Water (0.1% TFA buffer); Solvent B: Acetonitrile (0.1% TFA buffer); Solvent Gradient: Time 0:0% B; 10 min: 100% B; Hold 100% B 5 min. Flow Rate: 22.5 mL/min). The product was collected based on UV absorption and concentrated to give the title compound as a white solid (0.25 g, 60%): 1H NMR (DMSO-d6) δ 2.91 (dd, J=13.9, 3.0 Hz, 1 H), 3.19 (dd, J=13.9, 4.0 Hz, 1 H), 3.59 (s, 3 H), 4.65-4.75 (m, 1 H), 6.22 (t, J=2.2 Hz, 2 H), 7.20-7.50 (m, 13 H), 7.60-7.68 (m, 2 H), 8.98 (d, J=8.1 Hz, 1 H), 12.94 (br s, 1 H); MS (ESI) m/z 464 (MH+); MS (ESI) m/z 462 ([M-H]−); HRMS calcd for C29H26N3O3: 464.1975; found (ESI+): 464.1959; Anal. calcd for C29H25N3O3: C, 75.14; H, 5.44; N, 9.07. Found: C, 74.72; H, 5.30; N, 8.93.

reactant | 1-methyl-3-phenyl-5-(1H-pyrrol-1-yl)-1H-indole-2-carboxylic acid | 0.9 mmol, 0.28 g | CN1C(=C(C2=CC(=CC=C12)N1C=CC=C1)C1=CC=CC=C1)C(=O)O | C20H16N2O2
reactant | 3-(dimethylamino)propyl-3-ethylcarbodiimide hydrochloride | 1.2 mmol, 0.29 g | Cl.CN(CCCN=C=NCC)C
reactant | L-phenylalanine ethyl ester hydrochloride | 1.5 mmol, 0.34 g | Cl.C(C)OC([C@@H](N)CC1=CC=CC=C1)=O
reactant | N-methylmorpholine | 5 mmol, 0.50 g | CN1CCOCC1 | C5H11NO
reactant | lithium hydroxide monohydrate | 7.1 mmol, 0.30 g | O.[OH-].[Li+]
solvent | CH2Cl2 | 15 mL | C(Cl)Cl | CH2Cl2
product | N-{[1-methyl-3-phenyl-5-(1H-pyrrol-1-yl)-1H-indol-2-yl]carbonyl}-L-phenylalanine | 0.25 g, 60% | CN1C(=C(C2=CC(=CC=C12)N1C=CC=C1)C1=CC=CC=C1)C(=O)N[C@@H](CC1=CC=CC=C1)C(=O)O | C29H25N3O3
